2185-10-09 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2185-10-8**] 01:38 PM
   Opening pressure 16-20 with return of clear CSF. Small hematoma noted
   at insertion site. Procedure tolerated well.
 FEVER - 101.8
F - [**2185-10-8**] 09:00 AM
   -[**Last Name (un) 276**] consulted. recommended 6units lantus daily, home novolog on our
   same sliding scale. Our pharmacy [**Last Name (un) 10163**] have novolog on formulary, so
   continued on humalog overnight. Will start on novolog tomorrow AM when
   brings in own insulin.
   -BP goal is 150's systolic. On PO meds in addition to labetalol drip.
   -Neuro said difficult to assess while sedated and intubated. Will
   reassess after comes off sedation. Also asked to consider EEG if MS
   [**Name13 (STitle) 10163**] clear after sedation weaned.
   -On coverage for meningitis. Got one dose of acyclovir, but not written
   as standing dose. LP performed. Cell counts unremarkable.
   -Head CT shows no acute process preliminarily
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-10-9**] 03:20 AM
   Infusions:
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-10-8**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-9**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.1
C (98.7
   HR: 86 (86 - 110) bpm
   BP: 141/93(104) {132/82(94) - 182/108(125)} mmHg
   RR: 13 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.6 kg (admission): 72 kg
             Total In:
                                                                  2,118 mL
                                                                    426 mL
   PO:
             TF:
   IVF:
                                                                  1,878 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                    987 mL
                                                                    190 mL
   Urine:
                                                                    707 mL
                                                                    190 mL
   NG:
                                                                    280 mL
   Stool:
   Drains:
   Balance:
                                                                  1,131 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (342 - 453) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   288 K/uL
   6.8 g/dL
   276 mg/dL
   7.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   28 mg/dL
   96 mEq/L
   135 mEq/L
   21.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2185-10-7**]  09:17 PM
                             [**2185-10-8**]  01:41 AM
                             [**2185-10-8**]  03:31 AM
                             [**2185-10-8**]  03:32 AM
                             [**2185-10-9**]  03:26 AM
   WBC
   10.5
   11.1
   10.5
   Hct
   24.8
   22.7
   21.2
   Plt
   327
   318
   288
   Cr
   9.4
   5.4
   7.8
   TropT
   0.36
   TCO2
   37
   34
   Glucose
   535
   134
   276
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:442/7/0.36, ALT / AST:14/31, Alk Phos / T Bili:73/0.3,
   Differential-Neuts:76.3 %, Lymph:17.7 %, Mono:4.6 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:513 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.5 mg/dL
   Microbiology: [**2185-10-8**]  CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY INPATIENT
   [**2185-10-8**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2185-10-7**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   This is a 24 yo male with type I DM, ESLD on HD, resistant HTN who
   presents with hyperglycemia and emesis and found to have significantly
   elevated blood pressures.
   .
   # Hyperglycemia: Would be classified as HHS given no ketonemia, though
   AG present. Possible etiologies include infection vs insulin
   non-compliance. AG resolved after only 10 units of IM regular insulin
   with serum glucose ranging 200's to 300's over past day
   - check FSBS q6 hours
   -For dialysis tomorrow- last received on [**10-7**]
   - Receiving dialysis tomorrow which should help to correct Na,K and
   HCO3
   - [**Last Name (un) 276**] following- on lantus 6 units daily and [**Last Name (un) 276**] sliding scale.
   Will substitute novolog for humalog when patient's family able to bring
   it in.
   - blood, csf, and urine cxs to rule out infection
   .
   # Anion Gap Acidosis: Possible etiologies include toxic ingestion vs
   lactic acidosis or [**3-7**] chronic renal failure. Unlikely to be
   ketoacidosis given negative serum ketoacids. However, AG resolved after
   only 10 units of IM insulin. Tox screen positive only for opiates.
   Lactate 1. Most likely [**3-7**] RF.
   - cont to monitor lytes
   .
   # Hypertension: BP 200's/100's on admission. Has run similarly high on
   previous admissions. On labetalol drip and home doses of metoprolol,
   lisinopril, and amlodipine. Titrating meds to SBP's in 150's.
   - Uptitrate oral BP meds as needed; Could consider uptitrating
   metoprolol dose when transitioning off labetalol, or substituting
   nifedipine for amlodipine.
   .
   # Mental Status Changes/? delerium: Pt described as confused and
   agitated which is a significant change from his baseline per his
   family, currently he is intubated. Possible this was secondary to
   elevated SBP vs uremia vs metabolic derangements in setting of
   hyperglycemia vs illicit drug use. Head CT prelim read neg for any
   acute IC process.
   - correct glucose and electrolyte abnormalities
   - dialysis tomorrow
   - f/u final head ct read
   - re-evaluate MS when pt extubated
   -LP shows no meningitis by cell counts. On vanc/ceftriaxone empirically
   pending cultures and received acyclovir x 1 (to be dosed c HD dose is
   350 p HD) pending neg PCR. Will f/u csf cultures. gram stain is
   negative.
   -will pan culture (including stool cultures) and wean sedation
   .
   # ESRD on HD: Last HD on [**10-7**]. Next for tomorrow.
   - renal dialysis fellow aware pt in house
   - cont nephrocaps
   .
   #Anemia: Hct to 21.2. Likely [**3-7**] chronic renal failure (baseline about
   25)
   -transfuse one  unit PRBC
   -recheck PM Hct
   -guiac all stools
   -check iron studies
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-10-7**] 08:11 PM
   Tunneled (Hickman) Line - [**2185-10-7**] 08:13 PM
   20 Gauge - [**2185-10-7**] 09:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He remains delirious off sedation but able to protect his airway. He
   will extubate today precluding any issue with fevers or hemodymanics.
   We await HSV PCR before stopping antibiotics for meningitis although
   clinical suspicion is low. His fever curve has trended down too with no
   revealing culture data. BP control has been better as has glycemic
   control.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2185-10-9**] 15:24 ------

2185-10-11 10:48:00 Physician Attending Progress Note
Chief Complaint: Delerium, Hyperglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   much more awake today but still confused
   24 Hour Events:
   Had HD yesterday
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2185-10-10**] 07:50 PM
   Acyclovir - [**2185-10-10**] 09:03 PM
   Ceftriaxone - [**2185-10-11**] 06:18 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-10-10**] 11:57 PM
   Lorazepam (Ativan) - [**2185-10-11**] 01:20 AM
   Haloperidol (Haldol) - [**2185-10-11**] 01:27 AM
   Dextrose 50% - [**2185-10-11**] 04:12 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-10-11**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 88 (84 - 101) bpm
   BP: 145/86(108) {145/86(108) - 206/123(145)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 72 kg
             Total In:
                                                                    574 mL
                                                                    431 mL
   PO:
                                                                     30 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    544 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    497 mL
   Urine:
                                                                  1,740 mL
                                                                    497 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,166 mL
                                                                    -66 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   302 K/uL
   38 mg/dL
   5.2 mg/dL
   31 mEq/L
   3.3 mEq/L
   10 mg/dL
   101 mEq/L
   143 mEq/L
   25.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2185-10-7**]  09:17 PM
                             [**2185-10-8**]  01:41 AM
                             [**2185-10-8**]  03:31 AM
                             [**2185-10-8**]  03:32 AM
                             [**2185-10-9**]  03:26 AM
                             [**2185-10-10**]  01:45 AM
                             [**2185-10-11**]  02:50 AM
   WBC
   10.5
   11.1
   10.5
   10.1
   6.7
   Hct
   24.8
   22.7
   21.2
   23.8
   25.9
   Plt
   327
   318
   288
   285
   302
   Cr
   9.4
   5.4
   7.8
   9.7
   5.2
   TropT
   0.36
   TCO2
   37
   34
   Glucose
   535
   134
   276
   95
   38
   Other labs: PT / PTT / INR:11.6/35.4/1.0, CK / CKMB /
   Troponin-T:442/7/0.36, ALT / AST:14/31, Alk Phos / T Bili:73/0.3,
   Differential-Neuts:76.3 %, Lymph:17.7 %, Mono:4.6 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:513 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 24 yo male with type I DM, ESLD on HD, resistant HTN who
   presents with hyperglycemia and emesis and found to have significantly
   elevated blood pressures.
   # Fever/Mental Status Changes/? delirium: Fevers improved.  Mental
   status changes c/w resolving feveres.  CSF cxs neg - D/cing
   antimicrobials except ACV until HSV studies back from CSF.  Will hold
   off on MRI for now.
   # Hyperglycemia: Sugars labile.  Cont managment [**First Name8 (NamePattern2) **] [**Last Name (un) 276**].
   # Anion Gap Acidosis: Resolved. Possible etiologies include toxic
   ingestion vs lactic acidosis or [**3-7**] chronic renal failure. Unlikely to
   be ketoacidosis given negative serum ketoacids. However, AG resolved
   after only 10 units of IM insulin. Tox screen positive only for
   opiates. Lactate 1. Most likely [**3-7**] RF.
   # Hypertension: D/C labetolol.
   # ESRD on HD: HD per renal
   #Anemia: Hct stable
   #Hematuria: Likely Foley trauma. Follow
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2185-10-7**] 08:13 PM
   20 Gauge - [**2185-10-7**] 09:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: